US07074799B2
Combine 7-chloroquinolin-4-ol (1000 mg, 5.55 mmol,) 2-(trifluoromethyl)phenylboronic acid (1583 mg, 8.33 mmol) and toluene (50 mL), and bubble nitrogen into the solution for 10 minutes. Add palladium acetate (25 mg, 0.11 mmol), 2-(dicyclohexylphosphino)biphenyl (78 mg, 0.22 mmol), and K3PO4 (2353 mg, 11.1 mmol) and heat at 90° C. for 16 hours. Let cool, add water (25 mL) and EtOAc (50 mL), and remove any insoluble material by filtration. Separate the EtOAc layer, and extract the aqueous layer twice with EtOAc (25 mL each). Combine the EtOAc extracts, dry (Na2SO4), and evaporate. Purify by silica gel chromatography (94% CH2Cl2/5% MeOH/1% NOH) to provide 110 mg of 7-(2-Trifluoromethyl-phenyl)-quinolin-4-ol as a white solid.

reactant | 7-chloroquinolin-4-ol | 5.55 mmol, 1000 mg | ClC1=CC=C2C(=CC=NC2=C1)O | C9H6ClNO
reactant | 2-(trifluoromethyl)phenylboronic acid | 8.33 mmol, 1583 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.22 mmol, 78 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | K3PO4 | 11.1 mmol, 2353 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 0.11 mmol, 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | water | 25 mL | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 7-(2-Trifluoromethyl-phenyl)-quinolin-4-ol | 110 mg | FC(C1=C(C=CC=C1)C1=CC=C2C(=CC=NC2=C1)O)(F)F | C16H10F3NO
